US08283354B2
2-(4-((S)-3-(Aminomethyl)piperidin-1-yl)-7-methylquinazolin-2-yl)-3-fluorophenol
2-(4-Chloro-7-methylquinazolin-2-yl)-3-fluorophenol (1.0 g, 3.46 mmol) was dissolved in 15 mL anhydrous CH2Cl2 under an N2 atmosphere and cooled using an ice bath and (S)-piperidin-3-ylmethyl-carbamic acid tert-butyl ester/oxalic acid (1.16 g, 3.81 mmol) was added in portions, followed by triethylamine (1.05 g, 1.45 mL, 10.4 mmol). The reaction was allowed to warm to room temperature and was complete after 1.5 hour. The mixture was partitioned between CH2Cl2 and H2O and separated, and the aqueous layer was extracted once more with CH2Cl2. The organic extracts were combined, dried over Na2SO4, filtered, and concentrated to a yellow solid. This solid was suspended in 40 mL CH2Cl2 and 20 mL of TFA were added. The reaction was complete after 1 hour. The solvent and the excess TFA were removed in vacuo, the residue was re-dissolved in CH2Cl2, and the pH was adjusted to 7 using an aqueous 1 M solution of NaOH. The reaction was partitioned between CH2Cl2 and H2O and separated, and the aqueous layer was extracted once more with CH2Cl2. The organic extracts were combined, dried over Na2SO4, filtered, and concentrated to yield of 2-(4-((S)-3-(aminomethyl)piperidin-1-yl)-7-methylquinazolin-2-yl)-3-fluorophenol (900 mg, 71% overall yield) as a yellow solid. LC/MS: m/z 367.3 (M+H)+ at 1.35 min (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)).

reactant | 2-(4-Chloro-7-methylquinazolin-2-yl)-3-fluorophenol | 3.46 mmol, 1.0 g | ClC1=NC(=NC2=CC(=CC=C12)C)C1=C(C=CC=C1F)O | C15H10ClFN2O
reactant | (S)-piperidin-3-ylmethyl-carbamic acid tert-butyl ester oxalic acid | 3.81 mmol, 1.16 g | C(C)(C)(C)OC(NC[C@@H]1CNCCC1)=O.C(C(=O)O)(=O)O
reactant | triethylamine | 10.4 mmol, 1.45 mL, 1.05 g | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
product | 2-(4-((S)-3-(Aminomethyl)piperidin-1-yl)-7-methylquinazolin-2-yl)-3-fluorophenol | NC[C@H]1CN(CCC1)C1=NC(=NC2=CC(=CC=C12)C)C1=C(C=CC=C1F)O | C21H23FN4O
